US06864396B2
A mixture of 20 grams of 7,14-dihydro-3,10-dinonylpentacene-5,12-dione and 400 mL of 2-methoxyethyl ether was stirred and flushed with nitrogen for 15 minutes. To this was added 11.4 grams of sodium borohydride and stirring was continued at 60° C. for 18 hours. The resulting mixture was cooled to room temperature, 3.0 grams of sodium borohydride was added, and stirring was continued for 16 hours at room temperature. To the resulting mixture was added 170 mL of acetic acid, and the mixture was heated at 60° C. for one hour. To this mixture was added 120 mL of concentrated hydrochloric acid and heating was continued at 60° C. for one hour. The resulting mixture was cooled to room temperature and the solid was collected by filtration and dried to give 2,9-dinonylpentacene.

reactant | 7,14-dihydro-3,10-dinonylpentacene-5,12-dione | 20 grams | C(CCCCCCCC)C=1C=CC=2CC3=CC=4C(C5=CC(=CC=C5CC4C=C3C(C2C1)=O)CCCCCCCCC)=O | C40H50O2
solvent | 2-methoxyethyl ether | 400 mL | COCCOCCOC | C6H14O3
product | 2,9-dinonylpentacene | C(CCCCCCCC)C1=CC2=CC3=CC4=CC5=CC=C(C=C5C=C4C=C3C=C2C=C1)CCCCCCCCC | C40H50
